US05498737
5.0 g (20 mmol) of 1-n-pentyl-4-bromo-1-silacyclohexane was dripped into a mixture of 0.5 g (21 mmol) of magnesium and 50 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 50 ml THF solution of 6.1 g (20 mmol) of 4-(3,4-difluorophenetyl)-1-bromocyclohexane. The products obtained were separated by means of chromatography to obtain 6.5 g (yield 80%) of trans-4-(trans-4-(2-(3,4-difluorophenyl) ethyl) cyclohexyl)-1-n-pentyl-1-silacyclohexane.

reactant | 1-n-pentyl-4-bromo-1-silacyclohexane | 20 mmol, 5.0 g | C(CCCC)[SiH]1CCC(CC1)Br | C10H21BrSi
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 4-(3,4-difluorophenetyl)-1-bromocyclohexane | 20 mmol, 6.1 g | FC1C=C(C=CC1(OCC)F)C1CCC(CC1)Br | C14H19BrF2O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | trans-4-(trans-4-(2-(3,4-difluorophenyl) ethyl) cyclohexyl)-1-n-pentyl-1-silacyclohexane | 6.5 g, yield 80% | FC=1C=C(C=CC1F)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCCCC | C24H38F2Si
